US07399759B2
2-[6(n-Pentylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
2-[6-(n-Pentylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one (0.15 g, 0.44 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (ca. 77%, 0.10 g, 0.46 mmol) in chloroform (10 ml) was added dropwise thereto. The reaction mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.075 g, 48%) as white crystals.

reactant | 2-[6-(n-Pentylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.44 mmol, 0.15 g | C(CCCC)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H18N2OS2
reactant | 3-chloroperbenzoic acid | 0.46 mmol, 0.10 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[6(n-Pentylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.075 g, 48% | C(CCCC)S(=O)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H18N2O2S2
